US07786157B2
N-(2-Acetylamino-ethyl)-3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-benzamide
A mixture of N-(2-Amino-ethyl)-3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-benzamide (80 mg, 0.16 mmol, 1 eq), Acetyl chloride (0.014 ml, 0.19 mmol, 1.2 eq), TEA (0.07 ml) in THF (1 ml) was stirred at room temperature overnight. It was purified with HPLC to give the desired product. LCMS observed for (M+H)+: 491.2

reactant | N-(2-Amino-ethyl)-3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-benzamide | 0.16 mmol, 80 mg, 1 eq | NCCN(C(C1=CC(=CC=C1)Cl)=O)CC(=O)N1CN(C(C1)=O)C1=C(C(=CC=C1)Cl)C | C21H22Cl2N4O3
reactant | Acetyl chloride | 0.19 mmol, 0.014 ml, 1.2 eq | C(C)(=O)Cl | C2H3ClO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | N-(2-Acetylamino-ethyl)-3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-benzamide | C(C)(=O)NCCN(C(C1=CC(=CC=C1)Cl)=O)CC(=O)N1CN(C(C1)=O)C1=C(C(=CC=C1)Cl)C | C23H24Cl2N4O4
